US07816563B1
A solution of Phleichrome (100 mg) in DMSO (2 mL) and acetic anhydride (1 mL) was heated at 40° C. for 24 h. The reaction mixture was diluted by dichloromethane (15 mL), washed with water and evaporated. The residue was chromatographed on two silica gel columns (1-5% MeOH-dichloromethane) to provide Hypocrellin B (25 mg, ˜25%). Thin-layer chromatography results and 1H-NMR were identical to that obtained from naturally occurring and extracted Hypocrellin B from H. bambusae, and as obtained by the two-step chemical conversion (Scheme 2).

reactant | Phleichrome | 100 mg | CC(CC1=C(C(=C2C(=O)C=C(C3=C4C(=CC(=O)C5=C(C(=C(C(=C45)C1=C32)CC(C)O)OC)O)OC)OC)O)OC)O | C30H30O10
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Hypocrellin B | 25 mg, ~25% | CC1=C(C2=C(C(=O)C=3C(=CC(=C4C3C2=C5C6=C4C(=CC(=C6C(=O)C(=C5C1)OC)O)OC)OC)O)OC)C(=O)C | C30H24O9
